US07700591B2
To a mixture of tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate (prepared according to Wustrow, D. J., Wise, L. D., Synthesis, (1991), 993-995; 3.24 g, 9.77 mmol), 3-cyanophenylboronic acid (2.01 g, 13.7 mmol), lithium chloride (1.23 g, 29.3 mmol), and 2 M Na2CO3 solution (14 mL) in DME (35 mL) was added Pd(PPh3)4 (564 mg, 0.489 mmol), and the resulting mixture was stirred at reflux under a nitrogen atmosphere for 3.5 h. The reaction mixture was cooled to rt, stirred overnight, then partially concentrated to remove most of the DME. To the remaining aqueous mixture was added DCM, 2M Na2CO3 solution, and ˜6 mL of 28% NH4OH solution. The layers were separated and the aqueous layer was extracted again with DCM. The combined organic layers were dried over anhydrous MgSO4, filtered, and concentrated. Purification by MPLC (silica, 45% ethyl acetate/hexanes eluent) afforded tert-butyl 4-(3-cyanophenyl)-3,6-dihydropyridine-1(2H)-carboxylate. 1HNMR (CDCl3, 500 MHz): δ 7.66 (s, 1H), 7.61 (dd, J=8.0, 1.5 Hz, 1H), 7.56 (d, J=8.0 Hz, 1H), 7.46 (t, J=7.5 Hz, 1H), 6.13 (br s, 1H), 4.12 (m, 2H), 3.68 (t, J=5.5 Hz, 2H), 2.53 (br s, 2H), 1.52 (s, 9H).

reactant | tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | 3-cyanophenylboronic acid | 13.7 mmol, 2.01 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | lithium chloride | 29.3 mmol, 1.23 g | [Cl-].[Li+]
reactant | Na2CO3 | 2 M, 14 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 35 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.489 mmol, 564 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(3-cyanophenyl)-3,6-dihydropyridine-1(2H)-carboxylate | C(#N)C=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C17H20N2O2
